US07435837B2
Treatment of 2-allyl-6-bromophenol (61.4 g 0.288 mol) with 3-chloroperoxybenzoic acid (77%, 149.18 g, 0.864 mol)) followed by potassium carbonate (99.56 g, 0.72 mol) generally according to the procedure described for Intermediate 9 provided 49.00 g (78%) (86%) of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol as an amber oil. Rf=0.66 (silica, ethyl acetate:hexanes 1:9) 1H NMR (DMSO-d6) δH 7.23 (dd, 1H); 7.14 (dd, 1H); 6.71 (t, 1H); (5.01 m, 1H); 4.85 (m, 1H); 4.99 (m, 2H); 3.36 (d, 2H).

reactant | 2-allyl-6-bromophenol | 0.288 mol, 61.4 g | C(C=C)C1=C(C(=CC=C1)Br)O | C9H9BrO
reactant | 3-chloroperoxybenzoic acid | 0.864 mol, 149.18 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | potassium carbonate | 0.72 mol, 99.56 g | C([O-])([O-])=O.[K+].[K+]
product | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methanol | 49.00 g | BrC1=CC=CC=2CC(OC21)CO | C9H9BrO2
